US07589095B2
To a solution of 4-(3-oxo-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile (610 mg) in methanol (8 ml) was added 1-(s)-methyl-2-methoxyethylamine (0.85 mL), acetic acid (0.5 mL), and followed by sodium triacetoxyborohydride (0.82 g). The mixture was stirred at room temperature for 4 hours, then diluted with sodium bicarbonate aqueous solution (5%, 50 ml). The mixture was extracted with ethyl acetate (50 ml plus 3×20 ml). Combined organic layer was dried over sodium sulphate, filtered, solvent removed under vacuum. Residue was columned on silica gel using DCM-MeOH (20:1) as eluant to give 4-[3-(1-(s)-methyl-2-methoxyethylamino)-propyl]-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile (250 mg). The above neutral product was dissolved in DCM and then HCl (1M in ether, 1 ml) added, 4-[3-(1-(s)-methyl-2-methoxyethylamino)-propyl]-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile HCl salt was collected by filtration (180 mg). 1H NMR (MeOD): δ 8.50 (s, 1H), 8.48 (d, 1H), 8.27 (s, 1H), 7.90 (d, 1H), 7.79 (t, 1H), 3.68 (m, 1H), 3.48 (m, 2H), 3.43 (s, 3H), 3.17 (m, 2H), 3.10 (t, 2H), 2.25 (m, 2H), 1.36 (d, 3H). MS m/z 379.5 (M+1), 80%.

reactant | 4-(3-oxo-propyl)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | 610 mg | O=CCCC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C15H10F3N3O
reactant | 1-(s)-methyl-2-methoxyethylamine | 0.85 mL | C[C@@H](COC)N | C4H11NO
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 8 ml | CO | CH4O
solvent | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
product | 4-[3-(1-(s)-methyl-2-methoxyethylamino)-propyl]-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | 250 mg | C[C@@H](COC)NCCCC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C19H21F3N4O
